US09024027B2
Step 3. Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(2-methoxyacetamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (173)
(S)-4-(2-(2-(4-amino-1,3-dioxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4 (difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (20.0 mg; 0.032 mmol) was dissolved in DMF (2 ml) and cooled down to 0° C. in a ice bath. 2-methoxyacetyl chloride (20.0 mg; 0.184 mmol) and DMAP (0.048 mmol; 5.89 mg) were added to the reaction solution that was stirred a 0° C. for 2 hours. After that time, the reaction was quenched with aqueous HCl (1M) (20 ml) and extracted with EtOAc (20 ml). The organic phase was further washed with HCl (1M) (3×20 ml), dried over Na2SO4 and the solvent removed under reduced pressure to afford the titled compound (15.0 mg; 67% yield). 1H NMR (400 MHz, acetone) δ ppm 10.33-10.47 (m, 1H), 8.80-8.93 (m, 1H), 8.22 (s, 2H), 7.83-7.95 (m, 1H), 7.57-7.67 (m, 1H), 7.16-7.24 (m, 2H), 7.04-7.11 (m, 1H), 6.94 (t, J=75.00 Hz, 1H), 6.13-6.22 (m, 1H), 4.46 (s, 2H), 4.14 (d, J=3.09 Hz, 2H), 3.91-4.06 (m, 2H), 3.65 (s, 3H), 3.49-3.58 (m, 1H), 3.26-3.38 (m, 1H), 1.17-1.39 (m, 1H), 0.54-0.69 (m, 2H), 0.36-0.48 (m, 2H). MS/ESI+ [MH]+=694.1.

reactant | (S)-4-(2-(2-(4-amino-1,3-dioxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4 (difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.032 mmol, 20.0 mg | NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C28H23Cl2F2N3O7
reactant | 2-methoxyacetyl chloride | 0.184 mmol, 20.0 mg | COCC(=O)Cl | C3H5ClO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.048 mmol, 5.89 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(2-methoxyacetamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 15.0 mg, 67% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC(=C2C1=O)NC(COC)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C31H27Cl2F2N3O9
